US04743601
1,2-Dihydro-3,5-dimethyl-3H-1,4-oxazino[2,3-c]quinoline
A mixture of 18.5 g of 3-bromo-N-(2-hydroxypropyl)-2-methyl-4-quinolinamine and 7.0 g of potassium tert-butoxide in 100 ml of DMF was stirred at 80°-90° C. for 1 hour. The mixture was cooled to room temperature, diluted with 300 ml of ice-water and stirred for 1 hour, whereupon a solid separated which was filtered and recrystallized twice from isopropanol and finally from isopropyl acetate. The yield was 8.7 g, mp 169°-170° C.

reactant | 3-bromo-N-(2-hydroxypropyl)-2-methyl-4-quinolinamine | 18.5 g | BrC=1C(=NC2=CC=CC=C2C1NCC(C)O)C | C13H15BrN2O
reactant | potassium tert-butoxide | 7.0 g | CC(C)([O-])C.[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1,2-Dihydro-3,5-dimethyl-3H-1,4-oxazino[2,3-c]quinoline | CC1CNC2=C(C(=NC=3C=CC=CC23)C)O1 | C13H14N2O
